US08138347B2
a) methyl 3-[4-(4-pyridinyl)-6-quinolinyl]-2-propenoate
A mixture of 4-(4-pyridinyl)-6-quinolinecarbaldehyde (2.29 g, 9.78 mmol), methyl (triphenylphosphoranylidene)acetate (3.30 g, 9.78 mmol) in MeOH (75 mL) was stirred at room temperature for 1 hour. The reaction was evaporated under reduced pressure and the resulting residue was purified by silica gel chromatography (1% MeOH in EtOAc) to give the title compound (2.71 g, 95%) as a white solid. MS(ES)+ m/e 291 [M+H]+.

reactant | 4-(4-pyridinyl)-6-quinolinecarbaldehyde | 9.78 mmol, 2.29 g | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C=O | C15H10N2O
reactant | methyl (triphenylphosphoranylidene)acetate | 9.78 mmol, 3.30 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | MeOH | 75 mL | CO | CH4O
product | methyl 3-[4-(4-pyridinyl)-6-quinolinyl]-2-propenoate | 2.71 g, 95% | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C=CC(=O)OC | C18H14N2O2
